US04039588
Potassium 2,4-dichlorophenate is prepared by dissolving 6.5 g. (0.04 mole) of 2,4-dichlorophenol and 2.6 g. (0.04 mole) of 85% potassium hydroxide in 30 ml. of methanol and removing the solvent under reduced pressure. The solid residue is dissolved in 60 ml. of sulfolane and 6.2 g. (0.04 mole) of 3-methyl-4-nitrofluorobenzene is added. The resulting solution is heated at 85° C. for 3 hours then at 150° C. for 1 hour, cooled, diluted with water and extracted with ether/benzene. The extract is dried and the solvent removed. The residue is dissolved in hot isopropanol and on cooling 8.2 g. (69%) of 2,4-dichloro-3'-methyl-4'-nitrodiphenyl ether (m.p. 72.5°-73.5° C.) separated and is isolated by filtration.

reactant | 2,4-dichlorophenol | 0.04 mole | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | potassium hydroxide | 0.04 mole | [OH-].[K+]
reactant | 3-methyl-4-nitrofluorobenzene | 0.04 mole | CC=1C=C(C=CC1[N+](=O)[O-])F | C7H6FNO2
solvent | water | O | H2O
product | Potassium 2,4-dichlorophenate | C1=CC(=C(C=C1Cl)Cl)[O-].[K+] | InChI=1S/C6H4Cl2O.K/c7-4-1-2-6(9)5(8)3-4;/h1-3,9H;/q;+1/p-1
